US08067614B2
b) (1H-Benzoimidazol-2-yl)(2,6-dichlorophenyl)methylamine hydrochloride
(2,6-Dichlorophenyl)methylcyanamide (150 mg) and phenylenediamine (81 mg) were dissolved in hexafluoro-2-propanol (1 ml) and heated at 100° C. in a closed vessel for 2 days. After a further day at 60° C. in an open vessel, the solvent was removed and the residue was purified by preparative HPLC. The product-containing fractions were combined, the acetonitrile was stripped off in a rotary evaporator, and the aqueous residue was neutralized with potassium carbonate and extracted three times with ethyl acetate. Drying over magnesium sulfate and purification with carbon were followed by evaporation to dryness. The residue was taken up in aqueous hydrochloric acid and freeze dried. 5 mg of the desired compound were obtained.

reactant | (2,6-Dichlorophenyl)methylcyanamide | 150 mg | ClC1=C(C(=CC=C1)Cl)CNC#N | C8H6Cl2N2
reactant | phenylenediamine | 81 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | hexafluoro-2-propanol | 1 ml | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
product | (1H-Benzoimidazol-2-yl)(2,6-dichlorophenyl)methylamine hydrochloride | 5 mg | Cl.N1C(=NC2=C1C=CC=C2)NCC2=C(C=CC=C2Cl)Cl | InChI=1S/C14H11Cl2N3.ClH/c15-10-4-3-5-11(16)9(10)8-17-14-18-12-6-1-2-7-13(12)19-14;/h1-7H,8H2,(H2,17,18,19);1H
